US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxynaphthalen-2-yl)methyl]piperazine:
2-Chloromethyl-5,6,7-trimethoxynaphthalene (418 mg) and piperazine (63 mg) were dissolved in DMF (10 mL), potassium carbonate (207 mL) was added to the solution, and the mixture was stirred at room temperature for 5 hours. After concentrating the reaction mixture under reduced pressure, chloroform was added to the residue, and the mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=40:1) to obtain the title compound as a free base.

reactant | 2-Chloromethyl-5,6,7-trimethoxynaphthalene | 418 mg | ClCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C14H15ClO3
reactant | piperazine | 63 mg | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 207 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N′-bis[(5,6,7-trimethoxynaphthalen-2-yl)methyl]piperazine | COC1=C2C=CC(=CC2=CC(=C1OC)OC)CN1CCN(CC1)CC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C32H38N2O6
